US08058447B2
8-Formyl-2-methyl-4-oxo-4H-chromene-5-carbonitrile
260 mg (0.72 mmol) of 8-(dibromomethyl)-2-methyl-4-oxo-4H-chromene-5-carbonitrile are heated with 187 mg (1.6 mmol) of N-methylmorpholine N-oxide with the addition of molecular sieves in 15 ml of acetonitrile under reflux overnight. After filtration through kieselguhr, the solvent is removed in vacuo, and the residue is purified by preparative HPLC. 23 mg (15% of theory) of the title compound are obtained.

reactant | 8-(dibromomethyl)-2-methyl-4-oxo-4H-chromene-5-carbonitrile | 0.72 mmol, 260 mg | BrC(C1=CC=C(C=2C(C=C(OC12)C)=O)C#N)Br | C12H7Br2NO2
reactant | N-methylmorpholine N-oxide | 1.6 mmol, 187 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 8-Formyl-2-methyl-4-oxo-4H-chromene-5-carbonitrile | C(=O)C1=CC=C(C=2C(C=C(OC12)C)=O)C#N | C12H7NO3
